US08202873B2
3′-(4-Fluorophenyl)-4-[2-(3-isobutyl-5-methyl-1-pyridin-2-yl-1H-pyrazol-4-yl)-ethyl]-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazine hydrochloride
Combine (3-isobutyl-5-methyl-1-pyridin-2-yl-1H-pyrazol-4-yl)-acetaldehyde (0.21 g, 0.82 mmol), 3′-(4-fluorophenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl (0.21 g, 0.82 mmol) in DCM (10 mL) and stir at room temperature for 15 min. Add glacial acetic acid (0.07 mL, 1.23 mmol) then sodium triacetoxyborohydride (0.26 g, 1.23 mmol). Stir at room temperature for 20 hr. Concentrate, then purify using SCX chromatography and further purify using silica gel chromatography, eluting with 5% 7 M ammonia in methanol:DCM. Dissolve the free base in methanol (5 mL) and treat with ammonium chloride (0.022 g). Concentrate the resulting solution to give the title compound as a white powder (0.22 g, 50%). MS: m/z=500.3 [M+H]+.

reactant | (3-isobutyl-5-methyl-1-pyridin-2-yl-1H-pyrazol-4-yl)-acetaldehyde | 0.82 mmol, 0.21 g | C(C(C)C)C1=NN(C(=C1CC=O)C)C1=NC=CC=C1 | C15H19N3O
reactant | 3′-(4-fluorophenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl | 0.82 mmol, 0.21 g | FC1=CC=C(C=C1)C=1C(=NC=CN1)N1CCNCC1 | C14H15FN4
reactant | acetic acid | 1.23 mmol, 0.07 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 1.23 mmol, 0.26 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 3′-(4-Fluorophenyl)-4-[2-(3-isobutyl-5-methyl-1-pyridin-2-yl-1H-pyrazol-4-yl)-ethyl]-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazine hydrochloride | 0.22 g, 50% | Cl.FC1=CC=C(C=C1)C=1C(=NC=CN1)N1CCN(CC1)CCC=1C(=NN(C1C)C1=NC=CC=C1)CC(C)C | InChI=1S/C29H34FN7.ClH/c1-21(2)20-26-25(22(3)37(34-26)27-6-4-5-12-31-27)11-15-35-16-18-36(19-17-35)29-28(32-13-14-33-29)23-7-9-24(30)10-8-23;/h4-10,12-14,21H,11,15-20H2,1-3H3;1H
